US08877922B2
ethyl 2-(pyrimidin-4-yl)acetate
To a flask containing LiHMDS (32 mL, 31.89 mmol, 1.0 M in THF) at −70° C., was slowly added 4-methylpyrimidine (1.0 g, 10.63 mmol). After 5 min of stirring at −70° C., diethylcarbonate (1.93 mL, 15.95 mmol) was added, the reaction was slowly warmed to room temperature and stirred for 4 days. The reaction mixture was quenched by addition of 1 N HCl, neutralized with saturated aqueous NaHCO3 and extracted with EtOAc (3×). The combined organics were dried over Na2SO4, filtered, concentrated under reduced pressure and purified by flash chromatography on silica gel (0-100% EtOAc in hexanes) to give the title compound as a yellow oil (1.38 g, 78%). MS 167 (MH+).

reactant | LiHMDS | 31.89 mmol, 1.0 M, 32 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4-methylpyrimidine | 10.63 mmol, 1.0 g | CC1=NC=NC=C1 | C5H6N2
reactant | diethylcarbonate | 15.95 mmol, 1.93 mL | C(C)OC(OCC)=O | C5H10O3
product | ethyl 2-(pyrimidin-4-yl)acetate | 1.38 g, 78% | N1=CN=C(C=C1)CC(=O)OCC | C8H10N2O2
